US08729105B2
Preparation of N-(4-Chloro-1-methyl-1H-pyrazol-3-ylmethyl)-5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (CAS Registry No. 1018782-82-5) and [(4-chloro-1-methyl-1H-pyrazol-3-yl)methyl]amine (CAS Registry No. 1017785-44-2) as starting materials; LC-MS (UV peak area/ESI) 100%, 458.0604 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H9ClF3NO3
reactant | [(4-chloro-1-methyl-1H-pyrazol-3-yl)methyl]amine | ClC=1C(=NN(C1)C)CN | C5H8ClN3
product | N-(4-Chloro-1-methyl-1H-pyrazol-3-ylmethyl)-5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | ClC=1C(=NN(C1)C)CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)Cl)OCC(F)(F)F)=O | C19H15Cl2F3N4O2
